US06268387B1
3-[3-(3,5-Dichlorophenyl)-thioureido]-4-methyl-N-phenyl-benzamide
Prepared according to the procedure described for Example 60 using of 3-amino-4-methyl-N-phenyl-benzamide (0.5 g, 2.2 mmol) and 3,5-dichlorophenyl isothiocyanate (0.458 g, 2.2 mmol). Trituration in ethyl acetate afforded the product (0.802 g) in two crops; m.p. 182-184° C.

reactant | 3-amino-4-methyl-N-phenyl-benzamide | 2.2 mmol, 0.5 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1C | C14H14N2O
reactant | 3,5-dichlorophenyl isothiocyanate | 2.2 mmol, 0.458 g | ClC=1C=C(C=C(C1)Cl)N=C=S | C7H3Cl2NS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[3-(3,5-Dichlorophenyl)-thioureido]-4-methyl-N-phenyl-benzamide | 0.802 g | ClC=1C=C(C=C(C1)Cl)NC(NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1C)=S | C21H17Cl2N3OS
